US07939524B2
b) Methyl (1R,2R,3S,4S)-3-{[(benzyloxy)carbonyl]amino}bicyclo[2.2.1]hept-5-ene-2-carboxylate
(1S,2S,3R,4R)-3-(Methoxycarbonyl)bicyclo[2.2.1]hept-5-ene-2-carboxylic acid (5.9 g, 30 mmol) was dissolved in anhydrous tetrahydrofuran (133 mL). The flask was degassed and backfilled with nitrogen and the mixture was cooled to 0° C. Triethylamine (12.64 mL, 90 mmol) was added followed by the dropwise addition of ethyl chloroformate (5.72 mL, 60 mmol) with vigorous stirring. Immediate precipitation was observed. The mixture was stirred at 0° C. for 1 h. Sodium azide (5.86 g, 90 mmol) was dissolved in water (40 mL) and added to the reaction mixture at 0° C. The mixture was stirred at 0° C. for 5 min. The ice bath was removed. The mixture was warmed to 25° C. and continued to stir for 2 h. The mixture was poured into water (300 mL) and the product extracted into ethyl acetate (300 mL). The organic layer was further washed with half-saturated aqueous sodium bicarbonate solution (2×100 mL), saturated aqueous brine solution (100 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo to afford a light brown oil. The oil was dissolved in anhydrous benzene (66 mL) and refluxed while stirring under nitrogen for 2 h. Upon cooling to 25° C. the solution was concentrated in vacuo to afford a light brown oil. The oil was dissolved in dichloromethane (40 mL) and benzyl alcohol (3.41 mL, 33 mmol) was added followed by triethylamine (8.44 mL, 60 mmol). The mixture was refluxed under nitrogen for 16 h. Upon cooling to 25° C. the solution was concentrated in vacuo to afford a thick oil. Purification by flash column chromatography (Merck silica gel 60, 40-63 μm; 1st column: 3:1 hexanes/ethyl acetate; 2nd column: 2:4:1 dichloromethane/pentane/diethyl ether) afforded the desired product, methyl (1R,2R,3S,4S)-3-{[(benzyloxy)carbonyl]amino}bicyclo[2.2.1]hept-5-ene-2-carboxylate (6.95 g, 23.09 mmol, 77%), as a pale yellow oil. 1H NMR (400 MHz, CDCl3) δ: 1.59 (1H, d, J=9.3 Hz), 1.96 (1H, d, J=9.3 Hz), 2.66 (1H, d, J=7.9 Hz), 2.75 (1H, s), 2.96 (1H, s), 3.59 (3H, s), 4.01 (1H, t, J=8.5 Hz), 5.09 (2H, q, J=10.4 Hz), 5.46 (1H, d, J=9.4 Hz), 6.17-6.22 (2H, m), 7.29-7.36 (5H, m). LC-MS (ESI) calcd for C17H19NO4 301.13, found 258.1 (100%), 302.2 [M+H+] (70%), 603.5 [2M+H+] (20%).

reactant | (1S,2S,3R,4R)-3-(Methoxycarbonyl)bicyclo[2.2.1]hept-5-ene-2-carboxylic acid | 30 mmol, 5.9 g | COC(=O)[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)O | C10H12O4
reactant | Triethylamine | 90 mmol, 12.64 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 60 mmol, 5.72 mL | ClC(=O)OCC | C3H5ClO2
reactant | Sodium azide | 90 mmol, 5.86 g | [N-]=[N+]=[N-].[Na+]
reactant | benzyl alcohol | 33 mmol, 3.41 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | triethylamine | 60 mmol, 8.44 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 133 mL | O1CCCC1 | C4H8O
solvent | water | 40 mL | O | H2O
solvent | benzene | 66 mL | C1=CC=CC=C1 | C6H6
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | methyl (1R,2R,3S,4S)-3-{[(benzyloxy)carbonyl]amino}bicyclo[2.2.1]hept-5-ene-2-carboxylate | 23.09 mmol, 6.95 g, 77% | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H]([C@H]2C=C[C@@H]1C2)C(=O)OC | C17H19NO4
